US07919506B2
Step C: Preparation of 3-azidomethyl-5-trifluoromethyl-benzonitrile
A solution of 3-hydroxymethyl-5-trifluoromethyl-benzonitrile (200 mg, 0.994 mmol) in toluene (1 ml) at 0° C. was treated with diphenyl phosphoryl azide (328 mg, 1.19 mmol), followed by DBU (182 mg, 1.19 mmol) and stirred at 0° C. for 2 hours. The ice bath was removed and the reaction was stirred at room temperature for overnight. Reaction was diluted with ethyl acetate and washed with 10% HCl solution, dried over anhydrous magnesium sulphate and concentrated in vacuo. The residue was purified by silica gel chromatography over 12+S Biotage silica column (eluted with 0-30% ethyl acetate in hexanes) to yield the title compound (150 mg, 67%) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ ppm 4.54 (s, 2H) 7.82 (s, 2H) 7.88 (s, 1H).

reactant | 3-hydroxymethyl-5-trifluoromethyl-benzonitrile | 0.994 mmol, 200 mg | OCC=1C=C(C#N)C=C(C1)C(F)(F)F | C9H6F3NO
reactant | diphenyl phosphoryl azide | 1.19 mmol, 328 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 1.19 mmol, 182 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-azidomethyl-5-trifluoromethyl-benzonitrile | 150 mg, 67% | N(=[N+]=[N-])CC=1C=C(C#N)C=C(C1)C(F)(F)F | C9H5F3N4
